US06376490B1
6,7-Dichloro-2,3-dimethoxyquinoxaline-5-carboxylic Acid
Lithium diisopropylamide mono(tetrahydrofuran) (1.5M in cyclohexane, 15.5 mL, 23.3 mmol) was added to a stirred suspension of 6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 1, 5.0 g, 19.3 mmol) in dry tetrahydrofuran (150 mL) at −78° C. under nitrogen. The reaction mixture was stirred at this temperature for 1 hour, then anhydrous carbon dioxide was bubbled through the solution at −78° C. for 1 hour. Saturated aqueous ammonium chloride solution (80 mL) was added and the resulting mixture was allowed to reach room temperature, acidified to pH 1 using 2M aqueous hydrochloric acid solution and extracted with ethyl acetate (3×50 mL). The combined organic extracts were then extracted with 1M aqueous sodium hydroxide solution. The aqueous solution was acidified to pH 1 using 2M aqueous hydrochloric acid solution and extracted with dichloromethane (3×50 mL). The combined dichloromethane extracts were dried (MgSO4) and concentrated under reduced pressure to give the title compound (4.0 g, 68%) as a pale brown solid, mp 230-232° C.

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | 23.3 mmol, 1.5M, 15.5 mL | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 6,7-dichloro-2,3-dimethoxyquinoxaline | 19.3 mmol, 5.0 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)OC | C10H8Cl2N2O2
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 6,7-Dichloro-2,3-dimethoxyquinoxaline-5-carboxylic Acid | 4.0 g, 68% | ClC1=C(C=2N=C(C(=NC2C=C1Cl)OC)OC)C(=O)O | C11H8Cl2N2O4
